* /home/santhosh.ldc20/esim-workspace/dff/dff.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
v2  en gnd pulse(0 1.8 0.001 0.001 0.001 2.5 5)
v1  in gnd pulse(0 1.8 0.001 0.001 0.001 0.5 1)
v3 net-_sc1-pad3_ gnd  dc 1.8v
* u2  out plot_v1
* u1  in plot_v1
* s c m o d e
xsc1 int_out net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 W=7 L=0.15
xsc2 int_out net-_sc1-pad2_ net-_sc2-pad3_ gnd sky130_fd_pr__nfet_01v8 W=7 L=0.15
xsc3 net-_sc2-pad3_ en gnd gnd sky130_fd_pr__nfet_01v8 W=7 L=0.15
* u4  en plot_v1
* u6  net-_u3-pad2_ net-_sc1-pad2_ dac_bridge_1
* u5  in net-_u3-pad1_ adc_bridge_1
* u12  int_out plot_v1
xsc4 int_out gnd sky130_fd_pr__cap_mim_m3_1 
* u3  net-_u3-pad1_ net-_u3-pad2_ santh_inverter
* u8  int_out net-_u7-pad1_ adc_bridge_1
* u7  net-_u7-pad1_ net-_u7-pad2_ santh_transmission
* u9  net-_u7-pad2_ out dac_bridge_1
a1 [net-_u3-pad2_ ] [net-_sc1-pad2_ ] u6
a2 [in ] [net-_u3-pad1_ ] u5
a3 [net-_u3-pad1_ ] [net-_u3-pad2_ ] u3
a4 [int_out ] [net-_u7-pad1_ ] u8
a5 [net-_u7-pad1_ ] [net-_u7-pad2_ ] u7
a6 [net-_u7-pad2_ ] [out ] u9
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             santh_inverter, NgSpice Name: santh_inverter
.model u3 santh_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             santh_transmission, NgSpice Name: santh_transmission
.model u7 santh_transmission(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.5e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
plot v(en)
plot v(int_out)
.endc
.end
