* /home/santhosh.ldc20/esim-workspace/test_adcbridge/test_adcbridge.cir

* u2  vin net-_u2-pad2_ adc_bridge_1
v1  vin gnd pulse(0 1.8 0.001 0.001 0.001 0.5 1)
* u1  vin plot_v1
* u3  vout plot_v1
* u4  net-_u2-pad2_ vout dac_bridge_1
a1 [vin ] [net-_u2-pad2_ ] u2
a2 [net-_u2-pad2_ ] [vout ] u4
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.5e-00 1.5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin)
plot v(vout)
.endc
.end
